US09085517B2
tert-butyl 5-chloro-4-(bromomethyl)-2-fluorobenzoate
To a stirred solution of tert-butyl 5-chloro-2-fluoro-4-methylbenzoate (Preparation 24, 4.60 g, 18.8 mmol) in carbon tetrachloride (60 mL) was added NBS (3.70 g, 20.7 mmol) and dibenzoyl peroxide (228 mg, 0.94 mmol). The resulting mixture was stirred under nitrogen at 85° C. for 18 hours. Additional NBS (7.60 g, 41.4 mmol) was added and the mixture stirred for 4 hours. Further NBS (1.00 g, 5.6 mmol) and dibenzoyl peroxide (200 mg, 0.85 mmol) were then added and the reaction mixture was left to stir under nitrogen at 85° C. for 18 hours. The reaction mixture was then cooled to room temperature and diluted with CH2Cl2 (50 mL). The organic layer was washed with water (50 mL), aqueous sodium thiosulfate solution (50 mL), dried over MgSO4, and concentrated under vacuum to give the crude product as a yellow oil. The crude product was purified by column chromatography on silica (eluent 95:5 heptane/EtOAc) yielding a 2:1 mixture of the title compound (tert-butyl 5-chloro-4-(bromomethyl)-2-fluorobenzoate) and tert-butyl 5-chloro-4-(dibromomethyl)-2-fluorobenzoate (3.96 g). To a stirred solution of the mixture of tert-butyl 5-chloro-4-(bromomethyl)-2-fluorobenzoate and tert-butyl 5-chloro-4-(dibromomethyl)-2-fluorobenzoate in EtOAc (25 mL) were added N,N-diisopropylethylamine (2.60 mL, 14.8 mmol) and diethyl phosphate (1.30 ml, 9.80 mmol) dropwise. The reaction mixture was stirred under nitrogen at room temperature for 18 hours. The reaction mixture was washed with aqueous solution of 1M HCl (30 mL) and brine (30 mL), dried over MgSO4 and concentrated under vacuum to give the crude product as an orange oil. This was purified by column chromatography on silica (eluent 9:1 heptane/EtOAc) yielding the title compound as an orange oil (2.9 g, 48%).

reactant | tert-butyl 5-chloro-2-fluoro-4-methylbenzoate | 18.8 mmol, 4.60 g | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)C | C12H14ClFO2
reactant | NBS | 20.7 mmol, 3.70 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.94 mmol, 228 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 41.4 mmol, 7.60 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 5.6 mmol, 1.00 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.85 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | tert-butyl 5-chloro-4-(dibromomethyl)-2-fluorobenzoate | 3.96 g | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)C(Br)Br | C12H12Br2ClFO2
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-chloro-4-(bromomethyl)-2-fluorobenzoate | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)CBr | C12H13BrClFO2
